US08809339B2
N1-(2-((5-(3,4-dimethylphenyl)pyrimidin-2-yl)carbamoyl)-4-(piperidin-1-yl)phenyl)-N3-(2-(2-hydroxyethoxy)ethyl)isophthalamide
Into a 10-mL round bottom flask, was placed a solution of 3-((2-(2-hydroxyethoxy)ethyl)carbamoyl)benzoic acid (227.1 mg, 0.90 mmol, 3.00 equiv) in N,N-dimethylformamide (6 mL), HATU (397.5 mg, 1.05 mmol, 3.50 equiv), N,N-diisopropylethylamine (192.8 mg, 1.49 mmol, 5.00 equiv), and 2-amino-N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-5-(piperidin-1-yl)benzamide (120 mg, 0.30 mmol, 1.00 equiv) and the resulting solution was stirred overnight at 25° C. in an oil bath. The reaction was then quenched with 100 mL of water and the resulting solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined, washed with 2×50 mL of brine and then dried over sodium sulfate. The solids were filtered out and the resulting mixture was concentrated under vacuum. The crude product (120 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA to afford 16.8 mg (9%) of a yellow solid. 1H-NMR (300 MHz, DMSO, ppm): δ 11.34 (s, 1H), 11.24 (s, 1H), 8.71˜8.68 (m, 3H), 8.38 (s, 1H), 8.19 (d, J=8.4 Hz, 1H), 8.04˜7.99 (m, 2H), 7.66˜7.58 (m, 1H), 7.47˜7.38 (m, 1H), 7.28˜7.19 (m, 2H), 7.15 (d, J=6.3 Hz, 1H), 4.42 (s, 1H), 3.56˜3.44 (m, 9H), 3.31 (m, 4H), 2.32 (s, 3H), 2.16 (s, 3H), 1.71˜1.58 (m, 6H). MS (ES, m/z): 637 [M+H]+.

reactant | 3-((2-(2-hydroxyethoxy)ethyl)carbamoyl)benzoic acid | 0.90 mmol, 227.1 mg, 3.00 equiv | OCCOCCNC(=O)C=1C=C(C(=O)O)C=CC1 | C12H15NO5
reactant | HATU | 1.05 mmol, 397.5 mg, 3.50 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.49 mmol, 192.8 mg, 5.00 equiv | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-amino-N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-5-(piperidin-1-yl)benzamide | 0.30 mmol, 120 mg, 1.00 equiv | NC1=C(C(=O)NC2=NC=C(C=N2)C2=CC(=C(C=C2)C)C)C=C(C=C1)N1CCCCC1 | C24H27N5O
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | N1-(2-((5-(3,4-dimethylphenyl)pyrimidin-2-yl)carbamoyl)-4-(piperidin-1-yl)phenyl)-N3-(2-(2-hydroxyethoxy)ethyl)isophthalamide | 16.8 mg, 9% | CC=1C=C(C=CC1C)C=1C=NC(=NC1)NC(=O)C1=C(C=CC(=C1)N1CCCCC1)NC(C1=CC(C(=O)NCCOCCO)=CC=C1)=O | C36H40N6O5
